US04065290
1-allyl-3-phenyl-5-(3-trifluoromethylphenyl)-4-piperidinone
Twenty g. of 1-phenyl-3-(3-trifluoromethylphenyl)-2-propanone was reacted with ethyl formate and allylamine hydrochloride as described in Examples 1-3 to obtain 10.8 g. of 1-allyl-3-phenyl-5-(3-trifluoromethylphenyl)-4(1H)-pyridinone, which was reacted with 2 g. of lithium aluminum hydride as described in Examples 1-3. The reaction mixture was worked up and chromatographed as described in the examples above to obtain 1.2 g. of the products of Examples 33 and 34 as a mixture. The compounds were identified by mass spectroscopy, which showed an indicated molecular weight of 357. A yield of 1.0 g. of the compound of Example 35 was obtained, which showed a mass spectroscopy molecular weight of 359.

reactant | 1-phenyl-3-(3-trifluoromethylphenyl)-2-propanone | C1(=CC=CC=C1)CC(CC1=CC(=CC=C1)C(F)(F)F)=O | C16H13F3O
reactant | ethyl formate | C(=O)OCC | C3H6O2
reactant | allylamine hydrochloride | Cl.C(C=C)N
reactant | 1-allyl-3-phenyl-5-(3-trifluoromethylphenyl)-4(1H)-pyridinone | C(C=C)N1C=C(C(C(=C1)C1=CC(=CC=C1)C(F)(F)F)=O)C1=CC=CC=C1 | C21H16F3NO
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | 1-allyl-3-phenyl-5-(3-trifluoromethylphenyl)-4-piperidinone | C(C=C)N1CC(C(C(C1)C1=CC(=CC=C1)C(F)(F)F)=O)C1=CC=CC=C1 | C21H20F3NO
